US09145392B2
3-(4-methoxyphenyl)-4-(4-{4-[3-(trifluoromethyl)phenyl]-1H-imidazol-2-yl}piperidin-1-yl)pyridine (“35”)
The title compound was prepared in an analogous manner as 6-{4-[4-(4-Fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-5-(4-methoxy-phenyl)-pyrimidin-4-ylamine using 3-bromo-4-(4-{4-[3-(trifluoromethyl)phenyl]-1H-imidazol-2-yl}piperidin-1-yl)pyridine instead of 5-bromo-6-(4-{4-[4-fluoro-3-(trifluoromethyl)phenyl]-1-methyl-1H-imidazol-2-yl}piperidin-1-yl)pyrimidin-4-amine. LC-MS: (M+1=479, obsd.=479).

reactant | 6-{4-[4-(4-Fluoro-3-trifluoromethyl-phenyl)-1-methyl-1H-imidazol-2-yl]-piperidin-1-yl}-5-(4-methoxy-phenyl)-pyrimidin-4-ylamine | FC1=C(C=C(C=C1)C=1N=C(N(C1)C)C1CCN(CC1)C1=C(C(=NC=N1)N)C1=CC=C(C=C1)OC)C(F)(F)F | C27H26F4N6O
reactant | 3-bromo-4-(4-{4-[3-(trifluoromethyl)phenyl]-1H-imidazol-2-yl}piperidin-1-yl)pyridine | BrC=1C=NC=CC1N1CCC(CC1)C=1NC=C(N1)C1=CC(=CC=C1)C(F)(F)F | C20H18BrF3N4
product | 3-(4-methoxyphenyl)-4-(4-{4-[3-(trifluoromethyl)phenyl]-1H-imidazol-2-yl}piperidin-1-yl)pyridine | COC1=CC=C(C=C1)C=1C=NC=CC1N1CCC(CC1)C=1NC=C(N1)C1=CC(=CC=C1)C(F)(F)F | C27H25F3N4O
